US07378410B2
Following the procedure of example 2d) ((3S,6S)-6-azido-2-oxo-azepan-3-yl)-carbamic acid tert-butyl ester is substituted for [(3S,6R)-6-(6-azido-hexyloxy)-1-methyl-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester to give (3S,6S)-3-amino-6-azido-azepan-2-one. MS (ESI) 170 (M+H)+

reactant | ((3S,6S)-6-azido-2-oxo-azepan-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NC[C@H](CC1)N=[N+]=[N-])=O)=O | C11H19N5O3
reactant | [(3S,6R)-6-(6-azido-hexyloxy)-1-methyl-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(N(C[C@@H](CC1)OCCCCCCN=[N+]=[N-])C)=O)=O | C18H33N5O4
product | (3S,6S)-3-amino-6-azido-azepan-2-one | N[C@@H]1C(NC[C@H](CC1)N=[N+]=[N-])=O | C6H11N5O
